US05236952
A mixture of 2.78 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone, 1.01 g of 2-aminothiazole and 40 ml of ethanol is heated to boiling under reflux for 23 hours. The reaction mixture is then cooled to room temperature and the crystals are removed by filtration under suction. There is obtained 5-(imidazo[2,1-b]thiazol-6-yl)-3-nitropyrocatechol hydrobromide of m.p. 286°-288° (from methanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 2.78 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-aminothiazole | 1.01 g | NC=1SC=CN1 | C3H4N2S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(imidazo[2,1-b]thiazol-6-yl)-3-nitropyrocatechol hydrobromide | Br.S1C=2N(C=C1)C=C(N2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | InChI=1S/C11H7N3O4S.BrH/c15-9-4-6(3-8(10(9)16)14(17)18)7-5-13-1-2-19-11(13)12-7;/h1-5,15-16H;1H
